US05239083
4-{2-[3-[1-(α-butylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 42)
0.61 g of compound 42 was obtained in a similar manner to those described in the Examples 1 and 2 using 1.28 g of ethyl 4-(2-aminophenoxy)butyrate and 1.0 g of 3-[1-(α-butylbenzyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 1.28 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(α-butylbenzyl)indol-5-yl]isocrotonic acid | 1.0 g | C(CCC)C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C23H25NO2
product | 4-{2-[3-[1-(α-butylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | C(CCC)C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C33H36N2O4
